US09290485B2
b) 1-(4-Hydroxymethyl-benzyl)-1H-[1,2,3]triazole-4-carboxylic acid ethyl ester
A mixture of (4-Azidomethyl-phenyl)-methanol (4.12 g, 25 mmol), ethyl propiolate (2.54 mL, 25 mmol), copper(II) sulfate (798 mg, 5 mmol) and sodium ascorbate (4.95 g, 25 mmol) in 30 mL n-BuOH and 30 mL water was stirred at room temperature for 16 h. Ethyl acetate was added and the mixture was extracted with water. The organic layer was dried over MgSO4 and evaporated in vacuo to give the title compound which was used in the next step without further purification. LCMS (Method A) RtA=1.157; [M+H]+=467.0MS [M+H]+=262.0.

reactant | (4-Azidomethyl-phenyl)-methanol | 25 mmol, 4.12 g | N(=[N+]=[N-])CC1=CC=C(C=C1)CO | C8H9N3O
reactant | ethyl propiolate | 25 mmol, 2.54 mL | C(C#C)(=O)OCC | C5H6O2
reactant | sodium ascorbate | 25 mmol, 4.95 g | O=C1C(O)=C([O-])[C@H](O1)[C@@H](O)CO.[Na+]
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | n-BuOH | 30 mL | CCCCO | C4H10O
solvent | water | 30 mL | O | H2O
catalyst | copper(II) sulfate | 5 mmol, 798 mg | S(=O)(=O)([O-])[O-].[Cu+2]
product | 1-(4-Hydroxymethyl-benzyl)-1H-[1,2,3]triazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1N=NN(C1)CC1=CC=C(C=C1)CO | C13H15N3O3
